US05302727
A solution of 7.73 g (0.031 mol) of 1-(3,4-dimethoxyphenyl)-1-cyclohexanemethanamine, 4.3 ml (0.00348 mol) of N-ethylmorpholine and 0.3 g of dimethylaminopyridine in 100 ml of abs. tetrahydrofuran was cooled to -10° and treated within 10 minutes with 4.4 ml (0.0348 mol) of isobutyl chloroformate. The mixture was then stirred at room temperature for 18 hours and filtered, and the solution was evaporated under reduced pressure. The residue was dissolved in ethyl acetate and the organic solution was washed first with 1N hydrochloric acid and then with a saturated sodium bicarbonate solution, dried over magnesium sulphate and evaporated under reduced pressure. tetrahydrofuran and 2.35 g (0.062 mol) of lithium aluminium hydride and the mixture was heated to reflux for 2 hours, thereafter cooled and treated with a saturated sodium sulphate solution. After filtering the mixture and evaporating the solvent there was obtained an oil which was distilled at 153°/260 Pa, whereby there was obtained 1-(3,4-dimethoxyphenyl)-N-methyl- 1-cyclohexanemethanamine as a colourless oil which was used directly in the next step.

reactant | 1-(3,4-dimethoxyphenyl)-1-cyclohexanemethanamine | 0.031 mol, 7.73 g | COC=1C=C(C=CC1OC)C1(CCCCC1)CN | C15H23NO2
reactant | N-ethylmorpholine | 0.00348 mol, 4.3 ml | C(C)N1CCOCC1 | C6H13NO
reactant | dimethylaminopyridine | 0.3 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | isobutyl chloroformate | 0.0348 mol, 4.4 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | lithium aluminium hydride | 0.062 mol, 2.35 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-(3,4-dimethoxyphenyl)-N-methyl- 1-cyclohexanemethanamine | COC=1C=C(C=CC1OC)C1(CCCCC1)CNC | C16H25NO2
